US08003785B2
To a mixture of 0.07 g (0.16 mmole) of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-151), 0.07 g (0.19 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 2 mL of dimethylformamide was added 0.04 mL (0.24 mmole) of diisopropylethylamine. After stirring at room temperature for 30 minutes, 0.013 g (0.24 mmole) of ammonium chloride was added. The mixture was stirred at room temperature for 18 hours. The mixture was diluted with ethyl acetate and water. The aqueous phase was extracted twice with ethyl acetate and the combined organic layers washed with water, then brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was triturated with hot methanol to give 0.012 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzamide (I-152).

reactant | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.16 mmole, 0.07 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C20H21F2N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.19 mmole, 0.07 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 0.24 mmole, 0.04 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.24 mmole, 0.013 g | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzamide | 0.012 g | C1(CCCC1)N1C2=C(NC(C(C1)(F)F)=O)C=NC(=N2)NC2=C(C=C(C(=O)N)C=C2)OC | C20H22F2N6O3
